US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(1-methyl-5-nitro-3,4-dihydro-1H-[2,7]naphthyridin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1-Methyl-5-nitro-1,2,3,4-tetrahydro-[2,7]naphthyridine to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 1-Methyl-5-nitro-1,2,3,4-tetrahydro-[2,7]naphthyridine | CC1NCCC2=C(C=NC=C12)[N+](=O)[O-] | C9H11N3O2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(1-methyl-5-nitro-3,4-dihydro-1H-[2,7]naphthyridin-2-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CN=CC(=C1CC2)[N+](=O)[O-])C | C16H13BrN6O3
